US03992385
A solution 1 g. of 2,3-dihydro-6-methyl-8-hydroxymethylergoline in 50 ml. of pyridine containing 25 ml. of acetic anhydride was stirred at 25° C. for 15 hours. The reaction mixture was added to 100 ml. of water, and the pH of the aqueous layer was adjusted to 10 by the addition of ammonium hydroxide. The aqueous alkaline reaction mixture was extractedwith ethyl acetate, and the organic extracts were combined, washed with water, dried, and the solvent was removed therefrom under reduced pressureto provide an oil. The oil was crystallized from methanol, affording 1-acetyl-2,3-dihydro-6-methyl-8-acetoxymethyl-ergoline, M.P. 172°-177° C.

reactant | 2,3-dihydro-6-methyl-8-hydroxymethylergoline | CN1CC(C[C@@H]2C=3C=CC=C4NCC(C[C@@H]12)C34)CO | C16H22N2O
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 1-acetyl-2,3-dihydro-6-methyl-8-acetoxymethyl-ergoline | C(C)(=O)N1CC2C[C@H]3N(CC(C[C@@H]3C=3C=CC=C1C32)COC(C)=O)C | C20H26N2O3
